US04704464
4-Chlorophenylalanine Methyl Ester Hydrochloride
0.14 mol (10 ml, 16.5 grams) of thionyl chloride were dropped at -5° C. into 100 ml of methanol. After addition of 0.11 mole (22 grams) of 4-chlorophenylalanine the mixture was heated under reflux for 15 hours. After drawing off the solvent the white residue was dried in a high vacuum.

reactant | thionyl chloride | 0.14 mol, 10 ml, 16.5 grams | S(=O)(Cl)Cl | Cl2OS
reactant | 4-chlorophenylalanine | 0.11 mole, 22 grams | ClC1=CC=C(C[C@H](N)C(=O)O)C=C1 | C9H10ClNO2
reactant | methanol | 100 ml | CO | CH4O
product | 4-Chlorophenylalanine Methyl Ester Hydrochloride | Cl.COC([C@@H](N)CC1=CC=C(C=C1)Cl)=O | InChI=1S/C10H12ClNO2.ClH/c1-14-10(13)9(12)6-7-2-4-8(11)5-3-7;/h2-5,9H,6,12H2,1H3;1H/t9-;/m0./s1
